US04345076
4.8 g of sodium hydride was added in portions to a stirred solution of 30 g of 3,6-dichloropyridazine and 27.4 g of 4-amino-2,5-dimethylphenol in 300 ml of dimethyl sulfoxide. The temperature of the mixture rose to 65° C. The mixture was then stirred for 18 hours at room temperature, poured over ice water and filtered. Recrystallization of the filter cake from methanol gave 4-(6-chloro-3-pyridazinyloxy)-2,5-dimethylbenzeneamine, as a brown solid (5A), mp: 138°-140° C.

reactant | sodium hydride | 4.8 g | [H-].[Na+]
reactant | 3,6-dichloropyridazine | 30 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 4-amino-2,5-dimethylphenol | 27.4 g | NC1=CC(=C(C=C1C)O)C | C8H11NO
solvent | dimethyl sulfoxide | 300 ml | CS(=O)C | C2H6OS
product | 4-(6-chloro-3-pyridazinyloxy)-2,5-dimethylbenzeneamine | ClC1=CC=C(N=N1)OC1=CC(=C(C=C1C)N)C | C12H12ClN3O
